US06780855B2
3.55 g of methylamine is condensed in a solution of 2.6 ml of 1,1,1,2,2,3,3 heptafluor-5-iodo-pentane in 20 ml of anhydrous tetrahydrofuran at −40° C., and it is stirred overnight at room temperature in a pressurized reactor. After the pressurized reactor was opened at −30° C., it is allowed to come to room temperature to allow excess methylamine to evaporate off. Then, the reaction solution is mixed with diethyl ether, washed with saturated common salt solution, dried on magnesium sulfate and concentrated by evaporation in a vacuum. 1.26 g of (3,4,4,5,5,5-hexafluoro-pent-2-enyl)-methyl-amine is obtained as a crude product.

reactant | methylamine | 3.55 g | CN | CH5N
reactant | 1,1,1,2,2,3,3 heptafluor-5-iodo-pentane | 2.6 ml | FC(C(C(CCI)(F)F)(F)F)(F)F | C5H4F7I
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (3,4,4,5,5,5-hexafluoro-pent-2-enyl)-methyl-amine | 1.26 g | FC(=CCNC)C(C(F)(F)F)(F)F | C6H7F6N
